US04806549
Ethyl 2-cyclohexylcarbonyl-3-(2-methoxyphenylamino)acrylate (20 g, 0.06 mol) was added in portions to boiling diphenyl ether (200 ml) and the mixture was heated under reflux for 1.5 hours. When cool, the mixture was diluted with petroleum ether and allowed to crystallise overnight to give 3-cyclohexylcarbonyl-8-methoxy-4(1H)-quinolone (6.0 g, 35.2%), m.p. 168°-70° C.

reactant | Ethyl 2-cyclohexylcarbonyl-3-(2-methoxyphenylamino)acrylate | 0.06 mol, 20 g | C1(CCCCC1)C(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C19H25NO4
solvent | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-cyclohexylcarbonyl-8-methoxy-4(1H)-quinolone | 6.0 g, 35.2% | C1(CCCCC1)C(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C17H19NO3
